US04154834
Treatment of ethyl 3-(3-pyridyl)butyrate with ethyl formate and sodium hydride in glyme, followed by acidification gave ethyl 2-(hydroxymethyl)-3-(3-pyridyl)butyrate, m.p. 128°-131°.

reactant | ethyl 3-(3-pyridyl)butyrate | N1=CC(=CC=C1)C(CC(=O)OCC)C | C11H15NO2
reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | sodium hydride | [H-].[Na+]
solvent | glyme | C(OC)COC | C4H10O2
product | ethyl 2-(hydroxymethyl)-3-(3-pyridyl)butyrate | OCC(C(=O)OCC)C(C)C=1C=NC=CC1 | C12H17NO3
